US06284785B1
(R)-1-(4-Chloro-benzenesulfonyl)-2-(4-fluoro-phenyl)-pyrrolidine
The title compound, white solid, m.p. 119° C. and MS: m/e=339 (M+) was prepared in accordance with the general method of example 1e from (R)-2-(4-fluoro-phenyl)-pyrrolidine and 4-chloro-benzenesulfonyl chloride.

reactant | (R)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)[C@@H]1NCCC1 | C10H12FN
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (R)-1-(4-Chloro-benzenesulfonyl)-2-(4-fluoro-phenyl)-pyrrolidine | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CCC1)C1=CC=C(C=C1)F | C16H15ClFNO2S
